US07923573B2
N,N-Dimethylformamide (75 ml) was added to 3-bromo-4-methoxybenzyl cyanide (9.0 g, 40 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II)-dichloromethane adduct (400 mg, 0.49 mmol) and potassium carbonate (24.0 g, 174 mmol) at room temperature. Further, triethylborane (1M n-hexane solution, 50 ml, 50 mmol) was added dropwise thereto and the reaction mixture was stirred at 70° C. for 5 hours. After the temperature of the reaction mixture was returned to room temperature, the mixture was poured into water and extracted with ethyl acetate. The organic layer was successively washed with water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=8/1-5/1) to give (3-ethyl-4-methoxyphenyl)acetonitrile (2.6 g, yield: 38%) as an oil.

reactant | N,N-Dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
reactant | 3-bromo-4-methoxybenzyl cyanide | 40 mmol, 9.0 g | BrC=1C=C(CC#N)C=CC1OC | C9H8BrNO
reactant | potassium carbonate | 174 mmol, 24.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylborane | 50 mmol, 1M, 50 ml | C(C)B(CC)CC | C6H15B
solvent | water | O | H2O
product | (3-ethyl-4-methoxyphenyl)acetonitrile | 2.6 g, yield: 38% | C(C)C=1C=C(C=CC1OC)CC#N | C11H13NO
